US04200747
To a solution of diethyl 2-bromomalonate (0.15 m) and indole (0.1 m) in 100 ml of benzene is added a solution of sodium hydroxide (0.1 m) in water. To this mixture is added tetra-n-butylammonium bromide (0.5 mmole). This mixture is stirred at about 25° C. for 16 hours. The phases are separated, the organic phase is dried and evaporated to give diethyl (1H-indol-1-yl)malonate.

reactant | diethyl 2-bromomalonate | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
catalyst | tetra-n-butylammonium bromide | 0.5 mmole | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | diethyl (1H-indol-1-yl)malonate | N1(C=CC2=CC=CC=C12)C(C(=O)OCC)C(=O)OCC | C15H17NO4
